US05412101
Ethyl 2-butyl-1-[[2'-(methoxycarbonyl)-(1,1'-biphenyl)-4-yl]-methyl]-4-(methylthio)-1H-imidazole-5-carboxylate
The operation is carried out as in Example 5, starting with 0.6 g of ethyl 2-butyl-4-(methylthio)-1H-imidazole-5-carboxylate (prepared as indicated in Stages C and D of Preparation 1, replacing the ethanethiol with methanethiol), using 907 mg of methyl 4'-(bromomethyl)-(1,1'-biphenyl)-2 -carboxylate. After chromatography on silica (eluant: methylene chloride--ethyl acetate (97-3)), 0.8 g of the desired product is obtained.

reactant | ethyl 2-butyl-4-(methylthio)-1H-imidazole-5-carboxylate | 0.6 g | C(CCC)C=1NC(=C(N1)SC)C(=O)OCC | C11H18N2O2S
reactant | methanethiol | CS | CH4S
reactant | methyl 4'-(bromomethyl)-(1,1'-biphenyl)-2 -carboxylate | 907 mg | BrCC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC | C15H13BrO2
product | Ethyl 2-butyl-1-[[2'-(methoxycarbonyl)-(1,1'-biphenyl)-4-yl]-methyl]-4-(methylthio)-1H-imidazole-5-carboxylate | 0.8 g | C(CCC)C=1N(C(=C(N1)SC)C(=O)OCC)CC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)OC | C26H30N2O4S
